Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
lisinopril / amlodipine
 
Attending: ___
 
Chief Complaint:
Transient left face, arm, and leg weakness. 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man with a history of hypertension 
and
hyperlipidemia who presented to OSH for slurred speech, left
face, arm and leg weakness. 

He was in his usual state of health at work this morning, when 
he
suddenly felt "wobbly". He leaned against a counter and noticed
his left arm was weak, and coworkers helped sit him down into a
chair. They also noted slurred speech and left facial droop. EMS
was called, and by the time they arrived ~3 minutes later his
symptoms had resolved. He had no headache, visual loss,
lightheadedness, language or comprehension difficulty. 

He denies recent palpitations, but notes mild substernal chest
tightness that lasted ~30 seconds a few days ago. It was not
associated with respiration. 

He was taken to ___, then ___ 
where
CTA, MRA, MRI were done showing a right ICA occlusion. He was
transferred here for further management including possible
carotid endarterectomy. 

ROS: As per HPI. 

 
Past Medical History:
Hypertension on losartan and hyperlipidemia on pravastatin
 
Social History:
___
Family History:
No family history of strokes, aneurysms, or clotting disorders. 

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION: 
-Vitals: T:98.3  BP:116/80  HR:60  RR:19  SaO2:97%

-General: Awake, cooperative, NAD.
-HEENT: NC/AT. No scleral icterus noted. MMM. No lesions noted 
in
oropharynx.
-Neck: Supple. 
-Cardiac: Well perfused. 
-Pulmonary: Breathing comfortably on room air.
-Abdomen: Soft, NT/ND. 
-Extremities: No cyanosis, clubbing, or edema bilaterally. 
-Skin: No rashes or other lesions noted.

NEUROLOGIC EXAM: 

NIHSS = 1 (Mild left facial weakness)

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There are no paraphasic errors.
Able to name both high and low frequency objects (including
cuticle).  Able to read longest sentences on stroke card without
difficulty. Speech is not dysarthric. Able to follow both 
midline
and appendicular commands. There is no evidence of apraxia or
neglect. 

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4 to 2mm and brisk. VFF to confrontation and no
extinction. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: Mild left nasolabial fold flattening. 
VIII: Hearing grossly intact to speech.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline and equal strength bilaterally.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5  
R  5    ___   ___  5   5    5  5     5     5  

-Sensory: No deficits to light touch throughout. No extinction 
to
DSS.

-DTRs:
  Bi Tri ___ Pat Ach 
L  2  1    1    2   2   
R  2  1    2    2   2  

-Coordination: No intention tremor. No dysmetria on FNF. 

-Gait: Gait normal (per ED).  

DISCHARGE PHYSICAL EXAMINATION: 
Vitals: 
Temperature: 97.9 
Blood pressure: 127/88
Heart rate: 73 
Respiratory rate: 18 
Oxygen saturation: 97% 

EXAMINATION UNCHANGED FROM ___
General: Comfortable and in no distress 
Head: No irritation/exudate from eyes, nose, throat 
Neck: Supple with no pain to flexion or extension 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No rashes or lesions 

Neurologic examination:
Mental status: 
Patient is fully alert and oriented and has no difficulty with
engaging in conversation with examiner.  Patient with no 
language
deficits. 

Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: Left facial droop and nasolabial flattening.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

Motor: 
Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.

  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

Sensory: 
No deficits to light touch, proprioception throughout.
No extinction to DSS.

Reflexes:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

Coordination: 
No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

Gait: 
Gait with no deficits

 
Pertinent Results:
Hemoglobin A1C 5.8 
TSH 1.7 
LDL 139 

Carotid ultrasound: 
1. Complete occlusion of the right internal carotid artery, 
compatible with findings on prior CTA. 
2. No atherosclerotic disease or stenosis within the left 
internal carotid 
artery. 

TTE: 
PFO is present with appearance of IV contrast in the LV early 
after opacification of the RV with saline contrast as well as 
late bubbles (moderately large quantity) suggesting also 
prescense of pulmonary AV malformations.

The patient has a mildly dilated ascending aorta. Based on ___ 
ACCF/AHA Thoracic Aortic Guidelines, if not previously known or 
a change, a follow-up echocardiogram is suggested in ___ year; if 
previously known and stable, a follow-up echocardiogram is 
suggested in ___ years. 
 
Brief Hospital Course:
Mr. ___ presented to the hospital ___ with transient 
left sided face, arm, and leg weakness and was found to have a 
right insular stroke.  Patient also with complete occlusion of 
the right internal carotid artery that was not amenable to CEA.  
Patient was found to have several stroke risk factors: 
including, elevated ldl, patent foramen ovale, and the occluded 
right internal carotid artery.  Patient's hyperlipidemia was 
address with starting atorvastatin 80 mg daily.  Patient for PFO 
had LEUS and MRV pelvis to rule out DVTs.  Patient for occluded 
right internal carotid artery was on enoxaparin with plan to 
bridge to warfarin. The plan and management of the warfarin 
treatment was discussed with his PCP ___.  Patient has 
appointment to address this ___.  Patient will take warfarin 
for one month and once he stops taking warfarin will start 
taking aspirin 81 mg daily.  Patient has an order for ___ and 
___ a scheduled stroke follow up appointment.  

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
 1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No  
 2. DVT Prophylaxis administered? (x) Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? (x) Yes - () No  
 4. LDL documented? (x) Yes (LDL =139 ) - () No  
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 ]  
 6. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
 9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No  
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D 1000 UNIT PO DAILY 
2. Losartan Potassium 50 mg PO DAILY 
3. Pravastatin 40 mg PO QPM 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*5 
2.  Enoxaparin Sodium 80 mg SC BID 
RX *enoxaparin 80 mg/0.8 mL 80 mg SC twice daily Disp #*14 
Syringe Refills:*2 
3.  Warfarin 5 mg PO DAILY ICA occlusion  
Start taking ___ 
RX *warfarin [Coumadin] 5 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0 
4.  Losartan Potassium 50 mg PO DAILY  
5.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right acute insular stroke 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

During this admission you were found to have a stroke, but on 
examination, thankfully, you were found to have only  minor left 
facial weakness.  

You were found to have two major risk factors for stroke.  
First, you have high blood lipid levels and have been started on 
atorvastatin 80mg daily to help reduce lipid levels.  Second, 
you were found to have occlusion of your right internal carotid 
artery, a major vessel that brings blood to the brain.  The 
occlusion is likely secondary to atherosclerosis (build up of 
cholesterol in the vessel wall). To help prevent parts of this 
plaque from dislodging from the vessel and traveling to your 
brain and causing a stroke, we have started you on enoxaparin 
which you will inject and then transition to warfarin for one 
month. You should start taking the Lovenox as prescribed right 
awa. You will start taking the warfarin on ___ (this upcoming 
___, and will have an appointment with Dr. ___ on ___ to 
further direct the duration of need for the enoxaparin and the 
dose of warfarin. Once you are therapeutic on the warfarin, you 
will be able to stop the Lovenox. You will take the warfarin for 
one month and then no longer need to take it. After you 
discontinue the warfarin, you will take over the counter aspirin 
81 mg daily.  This will help reduce the risk of stroke.  

When we imaged your heart you were found to have a PFO (patent 
foramen ovale) which is a small hole that is present between two 
chambers of your heart.  This can be found in ~5% of people and 
is usually clinically significant, but in individuals with 
strokes this hole can act as a conduit for clots present in your 
lower half of your body.  We did studies looking for blood clots 
in your pelvis and legs and there were none. 

It was a pleasure taking care of you,
Your ___ Team
 
Followup Instructions:
___